US05155113
Preparation of 3'-O-benzyl-2'-deoxy-5-fluoro-5'-O-nicotinoyluridine
A 0.21 g quantity of nicotinoyl chloride hydrochloride was added to a solution of 0.20 g of 3'-O-benzyl-2'-deoxy-5-fluorouridine in 10 ml of pyridine, and the mixture was left to stand at 80° C. for 3 hours. The solvent was distilled off and the residue was dissolved in 30 ml of ethyl acetate. The solution was washed twice with 20 ml of water. The ethyl acetate layer was dried over anhydrous sodium sulfate and concentrated. The concentrate was placed on a silica gel column and eluted with chloroform, giving 0.18 g of the title compound in a yield of 69%.

reactant | nicotinoyl chloride hydrochloride | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | 3'-O-benzyl-2'-deoxy-5-fluorouridine | 0.20 g | C(C1=CC=CC=C1)O[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C(=C1)F | C16H17FN2O5
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 3'-O-benzyl-2'-deoxy-5-fluoro-5'-O-nicotinoyluridine | 0.18 g, yield of 69% | C(C1=CC=CC=C1)O[C@H]1C[C@@H](O[C@@H]1COC(C1=CN=CC=C1)=O)N1C(=O)NC(=O)C(=C1)F | C22H20FN3O6
